US07834041B2
(2S,4S)-4-Benzyloxycarbonylaminopyrrolidine-1,2-dicarboxylic Acid 1-t-Butyl Ester 2-Methyl Ester
(2S,4S)-4-Aminopyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-methyl ester (7.3 g, 30 mmol) was dissolved in DCM (100 mL) and cooled in an ice bath. DIPEA (3 equiv) was added, followed by benzyl chloroformate (1 equiv). The mixture was stirred at room temperature for 3 hours and then diluted with DCM (200 mL). The solution was washed with 1M HCl (100 mL), saturated aqueous NaHCO3 (100 mL) and saturated aqueous NaCl (100 mL), then dried over Na2SO4. The solvent was evaporated to afford the title compound (10.4 g, 28 mmol), which was used without further purification. MS m/z: [M+H]+ calcd for C12H21NO7S, 323.4. found 324.3.

reactant | (2S,4S)-4-Aminopyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-methyl ester | 30 mmol, 7.3 g | COC(=O)[C@H]1N(C[C@H](C1)N)C(=O)OC(C)(C)C | C11H20N2O4
reactant | DIPEA | 3 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 1 equiv | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-Benzyloxycarbonylaminopyrrolidine-1,2-dicarboxylic Acid 1-t-Butyl Ester 2-Methyl Ester | 28 mmol, 10.4 g | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H26N2O6
